US08378118B2
9: Preparation of 7-Methoxy-6-methyl-indan-4-ol
The stirred solution of 7-methoxy-6-methyl-indan-4-carbaldehyde (1.0 gm, 0.0060 mole) in Methanol (20 ml), Sulphuric acid (0.6 ml) was added at room temperature. To the reaction mixture, 30% Hydrogen peroxide (1.6 ml) was added and stirred for 1 hour at 0° C. Methanol was distilled under vacuum and the residue was dissolved in Ethylacetate (50 ml), further ethyl acetate layer was washed with water and evaporated to give a crude product, which upon triturating with Hexane give 600 mg title compound as a solid.

reactant | 7-methoxy-6-methyl-indan-4-carbaldehyde | 0.0060 mole, 1.0 gm | COC1=C(C=C(C=2CCCC12)C=O)C | C12H14O2
reactant | Hydrogen peroxide | 1.6 ml | OO | H2O2
solvent | Methanol | 20 ml | CO | CH4O
solvent | Sulphuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Methoxy-6-methyl-indan-4-ol | 600 mg, Yield: 56% | COC1=C(C=C(C=2CCCC12)O)C | C11H14O2
